US07109223B2
Step 1: 4-methoxycarbonyloxazolidin-2-one (1-1)
The preparation of 1-1 was carried out according to the literature procedure (see: Sibi, M. P. et al, J. Chem. Soc. Perkin Trans. 1 1994, 1675). Thus, 39.5 grams of serine methyl ester hydrochloride was reacted with phosgene (20% solution in toluene, 175 mL) to give 42 grams of desired product. 1H NMR (400 MHz, acetone-d6): δ 7.1 (br s, 1H, NH), 4.64–4.56 (m, 2H), 4.44 (dd, 1H), 3.77 (s, 3H).

reactant | Sibi | CC(C)CSC[C@@H]1[C@H]([C@H]([C@@H](O1)N2C=NC3=C2NC=NC3=O)O)O | C14H20N4O4S
reactant | serine methyl ester hydrochloride | 39.5 grams | Cl.COC([C@@H](N)CO)=O
reactant | phosgene | 175 mL | C(=O)(Cl)Cl | CCl2O
product | 4-methoxycarbonyloxazolidin-2-one | 42 grams | COC(=O)C1NC(OC1)=O | C5H7NO4
